US07943639B2
(2E)-3-(5-Bromothien-2-yl) acryloyl azide
Thionyl chloride (1.04 mL) was added to a solution of (2E)-3-(5-bromothien-2-yl) acrylic acid (1.04 g, 4.46 mmol) in chloroform (20 mL) and the mixture was refluxed for 2 h at 75° C. and than used in the next step. The above solution was added drop wise to a stirred suspension of sodium azide (0.58 g, 8.93 mmol), dioxane (3 mL) and water (3 mL) in an ice bath. After 10 min a precipitate appeared which was filtered off and washed with water. The residue was dissolved in dichloromethane, dried with MgSO4, filtered and the solvent was removed to afford: 0.96 g (83.4%). 1H NMR (270 MHz CH3OH-d4) δ ppm 6.20 (d, J=15.57 Hz, 1H) 7.15-7.25 (m, 2H) 7.80 (d, J=15.57 Hz, 1H); MS 258.1 (M−H)+; Purity (HPLC) 65%.

reactant | Thionyl chloride | 1.04 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (2E)-3-(5-bromothien-2-yl) acrylic acid | 4.46 mmol, 1.04 g | BrC1=CC=C(S1)/C=C/C(=O)O | C7H5BrO2S
reactant | sodium azide | 8.93 mmol, 0.58 g | [N-]=[N+]=[N-].[Na+]
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 3 mL | O | H2O
product | (2E)-3-(5-Bromothien-2-yl) acryloyl azide | BrC1=CC=C(S1)/C=C/C(=O)N=[N+]=[N-] | C7H4BrN3OS
